US08735584B2
4-Fluoro-N-[4-(9-trifluoromethyl-6-oxo-5,6-dihydro-benzo[c][1,8]naphthyridin-1-ylamino)-phenyl]-2-trifluoromethyl-benzamide (404)
The title compound was synthesized according to the procedure described for the preparation of Example 378, method 2 using 1-chloro-9-trifluoromethyl-5H-benzo[c][1,8]naphthyridin-6-one and N-(4-amino-phenyl)-4-fluoro-2-trifluoromethyl-benzamide to provide 404. LC-MS (M+H=561, obsd.=561). 1H NMR (400 MHz, DMSO-d6): δ, 6.96 (d, 1H), 7.18 (d, 2H), 7.54 (m, 2H), 7.76 (m, 2H), 7.78 (d, 1H), 7.97 (d, 1H), 8.10 (d, 1H), 8.27 (s, 1H), 8.99 (s, 1H), 10.25 (s, 1H).

reactant | 1-chloro-9-trifluoromethyl-5H-benzo[c][1,8]naphthyridin-6-one | ClC1=C2C3=C(C(NC2=NC=C1)=O)C=CC(=C3)C(F)(F)F | C13H6ClF3N2O
reactant | N-(4-amino-phenyl)-4-fluoro-2-trifluoromethyl-benzamide | NC1=CC=C(C=C1)NC(C1=C(C=C(C=C1)F)C(F)(F)F)=O | C14H10F4N2O
product | 4-Fluoro-N-[4-(9-trifluoromethyl-6-oxo-5,6-dihydro-benzo[c][1,8]naphthyridin-1-ylamino)-phenyl]-2-trifluoromethyl-benzamide | FC1=CC(=C(C(=O)NC2=CC=C(C=C2)NC2=C3C4=C(C(NC3=NC=C2)=O)C=CC(=C4)C(F)(F)F)C=C1)C(F)(F)F | C27H15F7N4O2
